US06831193B2
N-(4-bromobenzyl)-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine
4-Bromobenzaldehyde and (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine were processed as described in Example 1A to provide the title compound.

reactant | 4-Bromobenzaldehyde | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine | [C@@H]1(CCCC2=CC=CC=C12)N | C10H13N
product | N-(4-bromobenzyl)-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine | BrC1=CC=C(CN[C@H]2CCCC3=CC=CC=C23)C=C1 | C17H18BrN
